US08071607B2
52A. N-(4-Cyano-phenyl)-hydrazinecarboxylic acid tert-butyl ester
Copper iodide (18 mg, 0.05 eq, 0.09 mmol), 1,10-phenanthroline (67 mg, 0.2 eq, 0.37 mmol) and caesium carbonate (0.84 g, 1.4 eq, 2.6 mmol) were mixed in a RB flask, placed under vacuum and purged with N2 (g). 4-iodo-benzonitrile (0.5 g, 1.0 eq, 1.85 mmol), hydrazine carboxylic acid tert-butyl ester (0.3 g, 1.2 eq, 2.22 mmol) and DMF (25 ml) were added to the mixture which was then heated to 80° C. with stirring under an inert atmosphere for 16 hours. The reaction mixture was allowed to cool and the solvent was removed in vacuo. The resultant residue was absorbed onto silica and purified by column chromatography using heptane/ethyl acetate (7:3) as eluent to yield the title compound as a pale orange solid (0.23 g, 1.0 mmol, 45%). LCMS: [M+H]+=234, rt=1.94 min, 97% purity.

reactant | 1,10-phenanthroline | 0.37 mmol, 67 mg, 0.2 eq | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | caesium carbonate | 2.6 mmol, 0.84 g, 1.4 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-iodo-benzonitrile | 1.85 mmol, 0.5 g, 1.0 eq | IC1=CC=C(C#N)C=C1 | C7H4IN
reactant | hydrazine carboxylic acid tert-butyl ester | 2.22 mmol, 0.3 g, 1.2 eq | C(C)(C)(C)OC(=O)NN | C5H12N2O2
catalyst | Copper iodide | 0.09 mmol, 18 mg, 0.05 eq | [Cu](I)I
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | N-(4-Cyano-phenyl)-hydrazinecarboxylic acid tert-butyl ester | 1.0 mmol, 0.23 g, 45% | C(C)(C)(C)OC(=O)N(N)C1=CC=C(C=C1)C#N | C12H15N3O2
